US04704390
7-(3-chloropropoxy)-2H-1,4-benzoxazin-3(4H)-one
7-Hydroxy-2H-1,4-benzoxazin-3(4H)-one was treated with 3-bromo-1-chloro-propane and sodium metal in ethyleneglycol monoethyl ether to give the desired product in 65% yield, mp 95° C.

reactant | 7-Hydroxy-2H-1,4-benzoxazin-3(4H)-one | OC1=CC2=C(NC(CO2)=O)C=C1 | C8H7NO3
reactant | 3-bromo-1-chloro-propane | BrCCCCl | C3H6BrCl
reactant | sodium | [Na] | Na
solvent | ethyleneglycol monoethyl ether | C(C)OCCO | C4H10O2
product | 7-(3-chloropropoxy)-2H-1,4-benzoxazin-3(4H)-one | 65% yield | ClCCCOC1=CC2=C(NC(CO2)=O)C=C1 | C11H12ClNO3
